US20010049385A1
Phosphorus(III) tribromide (0.41 ml, 4.37 mmol) was added to a solution of 1-[2-(2,4-dichlorophenoxy)phenyl]methanol (420 mg, 1.56 mmol) in dioxane (10 ml). The reaction mixture was stirred for 1 hour at room temperature. Another portion of phosphorus(III) tribromide (0.41 ml, 4.37 mmol) was added. The reaction mixture was stirred for 16 hours at room temperature. It was cooled to 0° C. Water (5 ml) was added dropwise. The reaction mixture was warmed to room temperature and diluted with ethyl acetate (400 ml). It was washed with a 10% aqueous solution of sodium hydrogensulphate. The aqueous phase was extracted with ethyl acetate (50 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (200 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (100 g), using ethyl acetate/heptane 1:3 as eluent, to give 297 mg of 2-(2,4-dichlorophenoxy)benzyl bromide.

reactant | Phosphorus(III) tribromide | 4.37 mmol, 0.41 ml | P(Br)(Br)Br | Br3P
reactant | 1-[2-(2,4-dichlorophenoxy)phenyl]methanol | 1.56 mmol, 420 mg | ClC1=C(OC2=C(C=CC=C2)CO)C=CC(=C1)Cl | C13H10Cl2O2
reactant | phosphorus(III) tribromide | 4.37 mmol, 0.41 ml | P(Br)(Br)Br | Br3P
reactant | Water | 5 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-dichlorophenoxy)benzyl bromide | 297 mg | ClC1=C(OC2=C(CBr)C=CC=C2)C=CC(=C1)Cl | C13H9BrCl2O
